US07053212B2
To a solution of 3-{4-[(3-hydroxy-benzyl)-(2,4,6-trimethyl-benzenesulfonyl)-amino]-phenyl}-propionic acid methyl ester (0.017 g, 0.04 mmol) in 0.5 mL tetrahydrofuran was added sodium hydroxide (0.004 g, 0.11 mmol) in 0.1 mL water. The reaction was stirred at room temperature for 24 hr. The reaction mixture was adjusted to a pH of 4 with 1N HCl and water was added. The aqueous solution was washed with methylene chloride and the organic layer was concentrated to afford 0.015 g of 3-{4-[(3-hydroxy-benzyl)-(2,4,6-trimethyl-benzenesulfonyl)-amino]-phenyl}-propionic acid. 1H NMR (CDCl3) δ 7.05 (t, 1H, J=7.6 Hz), 7.00–6.93 (m, 2H), 6.90–6.80 (m, 4H), 6.70–6.62 (m, 2H), 6.43 (bs, 1H), 4.69 (s, 2H), 2.83 (t, 2H, J=7.2 Hz), 2.56 (t, 2H, J=7.2 Hz), 2.42 (s, 6H), 2.24 (s, 3H).

reactant | 3-{4-[(3-hydroxy-benzyl)-(2,4,6-trimethyl-benzenesulfonyl)-amino]-phenyl}-propionic acid methyl ester | 0.04 mmol, 0.017 g | COC(CCC1=CC=C(C=C1)N(S(=O)(=O)C1=C(C=C(C=C1C)C)C)CC1=CC(=CC=C1)O)=O | C26H29NO5S
reactant | sodium hydroxide | 0.11 mmol, 0.004 g | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | water | 0.1 mL | O | H2O
product | 3-{4-[(3-hydroxy-benzyl)-(2,4,6-trimethyl-benzenesulfonyl)-amino]-phenyl}-propionic acid | 0.015 g | OC=1C=C(CN(C2=CC=C(C=C2)CCC(=O)O)S(=O)(=O)C2=C(C=C(C=C2C)C)C)C=CC1 | C25H27NO5S
